* 24V to 380V boost, 400W
* D=1-24/380=937m, t_on=9.37u, Rload=361
* L1 on input side, M1 is low-side switch
Vin in 0 24
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 361
Rbleed sw 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 9.37u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.probe V(*) I(*)
.end
